US07534891B2
c) 6-Methoxy-quinoline-2-carboxylic acid
6-Methoxy-quinoline-2-carbonitrile (9.3 g, 0.050 mol) in 96 ml methanol was treated with 240 ml of 20% NaOH and the mixture was heated to 120° C. in a sealed tube overnight. After cooling to 0° C. a precipitate appeared. The mixture was filtered to get a sodium salt that was suspended in water. HCl 25% was added until pH 3-4 to get the acid as a precipitate that was filtered and dried under vacuum. The mother liquid of the first filtration was acidified with HCl 25% until pH 3-4 until a precipitate appeared. The precipitate was filtered and the solid was washed in water and dried under vacuum to yield 9.6 g (86%) of the title compound as light brown solid. MS (m/e)=204 (M+H)+.

reactant | 6-Methoxy-quinoline-2-carbonitrile | 0.050 mol, 9.3 g | COC=1C=C2C=CC(=NC2=CC1)C#N | C11H8N2O
reactant | NaOH | 240 ml | [OH-].[Na+]
reactant | methanol | 96 ml | CO | CH4O
product | 6-Methoxy-quinoline-2-carboxylic acid | COC=1C=C2C=CC(=NC2=CC1)C(=O)O | C11H9NO3
